US04282230
4-[[1-(2,4-Dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-2-quinolinol
7.2 g of 4-bromomethyl-2-hydroxyquinoline (0.03 mol), 7.7 g of 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol (0.03 mol), 30 g sodium hydroxide (0.75 mol) in 30 ml of water, 0.5 g benzyltrimethylammonium chloride and 45 ml of tetrahydrofuran are reacted in a manner as described in Example 1. After work up of the reaction mixture the sodium salt of the title compound is dissolved in 400 ml of water and acidified with acetic acid. After standing overnight, the solution is filtered and then neutralized with aqueous ammonia. The deposited oil is extracted with chloroform, the chloroform layer washed with water, dried with sodium sulfate and evaporated. The residual oil (8 g) is dissolved in 100 ml of ethyl acetate, charcoaled and allowed to stand overnight in the refrigerator. The crystallized 4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-2-quinolinol melts at 190°-192° C.

reactant | 4-bromomethyl-2-hydroxyquinoline | 0.03 mol, 7.2 g | BrCC1=CC(=NC2=CC=CC=C12)O | C10H8BrNO
reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol | 0.03 mol, 7.7 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
reactant | sodium hydroxide | 0.75 mol, 30 g | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | water | 30 ml | O | H2O
catalyst | benzyltrimethylammonium chloride | 0.5 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | 400 ml | O | H2O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 4-[[1-(2,4-Dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-2-quinolinol | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)OCC1=CC(=NC2=CC=CC=C12)O | C21H17Cl2N3O2
